US04400542
4,6-Diacetylresorcinol (19.4 g; 0.1 mole), sodium hydroxide (8.0 g; 0.2 mole) and allyl bromide (12.1 g; 9 ml; 0.1 mole) in water (160 ml) and 1,2-dichloroethane (150 ml) were stirred at reflux for 3 hours. The mixture was cooled to room temperature, the organic layer was separated and the aqueous layer was extracted with 1,2-dichloroethane (3×50 ml). The combined organic layers were dried (anhydrous sodium sulphate) and evaporated to give 2-allyl-4,6-diacetylresorcinol as a pink oil (9 g; 38%) which rapidly crystallised, m.p. 84°-86° C.

reactant | 4,6-Diacetylresorcinol | 0.1 mole, 19.4 g | C(C)(=O)C1=C(C=C(O)C(=C1)C(C)=O)O | C10H10O4
reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
reactant | allyl bromide | 0.1 mole, 9 ml, 12.1 g | C(C=C)Br | C3H5Br
solvent | water | 160 ml | O | H2O
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 2-allyl-4,6-diacetylresorcinol | C(C=C)C1=C(O)C(=CC(=C1O)C(C)=O)C(C)=O | C13H14O4
